US04070179
According to the method of Example 1a 553 g (2.26 moles) of p-toluenesulfonic-acid-(2-ethoxyethyl)-ester are added to a solution of 607 g (4.5 moles) 2,3,6-trimethylaniline in 1 liter of toluene. 317 g(68% of theoretical amount) of N-(2-ethoxyethyl)-2,3,6-trimethyl-aniline are obtained, b.p. 150°-152° C / 14 Torr.

reactant | p-toluenesulfonic-acid-(2-ethoxyethyl)-ester | 2.26 moles, 553 g | C(C)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C11H16O4S
reactant | 2,3,6-trimethylaniline | 4.5 moles, 607 g | CC1=C(N)C(=CC=C1C)C | C9H13N
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | N-(2-ethoxyethyl)-2,3,6-trimethyl-aniline | 317 g, 68% | C(C)OCCNC1=C(C(=CC=C1C)C)C | C13H21NO
